US05972888
Synthesis of 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran
The title product was prepared by the demethylation of 2-(4-methoxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-methoxybenzofuran, the product of Example 1a, supra. In a 250 ml three-neck round bottom flask were combined ethylene chloride (50 ml) and aluminum trichloride (9.60 g, 72 mmol) and ethanethiol (6.39 g, 103 mmol) to create a pale yellow liquid. To this liquid was then added the product of Example la (5.00 g, 10.3 mmol) in a gradual fashion. A red oil precipitated and the mixture was stirred for about 20 minutes. After cooling the reaction mixture in an ice bath 100 ml of tetrahydrofuran was added and the mixture was allowed to stir until all of the oil had gone into solution.

reactant | 2-(4-methoxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-methoxybenzofuran | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)C=CC(=C2)OC | C30H31NO5
reactant | aluminum trichloride | 72 mmol, 9.60 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethanethiol | 103 mmol, 6.39 g | C(C)S | C2H6S
solvent | ethylene chloride | 50 ml | C(CCl)Cl | C2H4Cl2
product | 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)C=CC(=C2)O | C28H27NO5
